US05082943
c) 4-Chloro-2-(isobutylamino)benzyl alcohol
To a suspension of 3.96 % (105 mmol) of lithium aluminum hydride in 200 ml of dry ether was dropwise added under chilling with ice for 15 min. a solution of 9.50 g (37 mmol) of methyl 4-chloro-2-(isobutyrylamino)benzoate obtained in b) above in a mixture of 20 ml of dry dichloromethane and 20 ml of dry ether. The mixture was then stirred for 30 min., and heated under reflux for 30 min. To the mixture was dropwise added under chilling with ice a saturated aqueous sodium sulfate. The organic portion was taken out by decantation, and dried over anhydrous sodium sulfate. The solvent was distilled off to leave 7.28 g of the desired compound as a residual colorless oil.

reactant | lithium aluminum hydride | 105 mmol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 4-chloro-2-(isobutyrylamino)benzoate | 37 mmol, 9.50 g | ClC1=CC(=C(C(=O)OC)C=C1)NC(C(C)C)=O | C12H14ClNO3
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ether | 20 ml | CCOCC | C4H10O
product | 4-Chloro-2-(isobutylamino)benzyl alcohol | 7.28 g | ClC1=CC(=C(CO)C=C1)NCC(C)C | C11H16ClNO
